US05032598
To a solution of 1.35 g (0.00419 mol) of 6-methanesulfonamido-2-(1-methyl-4-piperidyl)indan-1-one in 46 mL of 1,2-dichloroethane was added 1.35 g (0.0063 mol) of 1,8-bis(dimethylamino)naphthalene. The solution was cooled in an ice bath and 1.80 g (0.0126 mol) of 1-chloroethylchloroformate was added dropwise over 5 minutes. The mixture was allowed to warm to room temperature and then was refluxed for 5 hours. The cooled mixture was filtered through a small column of silica gel using methylene chloride to wash the column. The eluate was evaporated in vacuo. The residual 1.35 g of thick oil was dissolved in 10 mL of methanol, and the solution was refluxed for 24 hours. Evaporation of the methanol and crystallization of the residue from methanol afforded 6-methanesulfonamido-2-(4-piperidyl)indan-1-one hydrochloride as a hemi methanol solvate salt: mp 254°-256° (dec.).

reactant | 6-methanesulfonamido-2-(1-methyl-4-piperidyl)indan-1-one | 0.00419 mol, 1.35 g | CS(=O)(=O)NC1=CC=C2CC(C(C2=C1)=O)C1CCN(CC1)C | C16H22N2O3S
reactant | 1,8-bis(dimethylamino)naphthalene | 0.0063 mol, 1.35 g | CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | C14H18N2
reactant | 1-chloroethylchloroformate | 0.0126 mol, 1.80 g | ClC(C)OC(=O)Cl | C3H4Cl2O2
solvent | 1,2-dichloroethane | 46 mL | ClCCCl | C2H4Cl2
product | 6-methanesulfonamido-2-(4-piperidyl)indan-1-one hydrochloride | Cl.CS(=O)(=O)NC1=CC=C2CC(C(C2=C1)=O)C1CCNCC1 | InChI=1S/C15H20N2O3S.ClH/c1-21(19,20)17-12-3-2-11-8-13(15(18)14(11)9-12)10-4-6-16-7-5-10;/h2-3,9-10,13,16-17H,4-8H2,1H3;1H
